US09085540B2
To a mixture of 1-(4-nitrophenyl)-4-(tetrahydro-2H-pyran-4-yl)piperazine (1.5 g), ethanol (13 mL), and tetrahydrofuran (13 mL) was added 10% palladium-supported carbon (53% wet product) (150 mg), followed by stirring at room temperature for 2 hours under a hydrogen gas atmosphere (3 atm). The reactant was filtered through celite and then the solvent was evaporated under reduced pressure to obtain 4-[4-(tetrahydro-2H-pyran-4-yl)piperazin-1-yl]aniline (1.45 g).

reactant | 1-(4-nitrophenyl)-4-(tetrahydro-2H-pyran-4-yl)piperazine | 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C1CCOCC1 | C15H21N3O3
reactant | ethanol | 13 mL | C(C)O | C2H6O
catalyst | palladium | 150 mg | [Pd] | Pd
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
product | 4-[4-(tetrahydro-2H-pyran-4-yl)piperazin-1-yl]aniline | 1.45 g | O1CCC(CC1)N1CCN(CC1)C1=CC=C(N)C=C1 | C15H23N3O
